US08686024B2
(3) Synthesis of 2-(di-n-propylaminocarbonyl)-5-methoxy-1-benzylindoline
To a solution of 2-(di-n-propylaminocarbonyl)-5-methoxy-1-benzylindole (654 mg, 1.79 mmol) in 18 mL of methanol was added magnesium turnings (0.87 g, 36 mmol) at 0° C. After the reaction mixture was stirred for 12 h with slowly warming up to room temperature, the reaction mixture was diluted with ethyl acetate, and washed with 1 M HCl, saturated NaHCO3 aqueous solution and brine, and dried over MgSO4. After filtration, the filtrate was concentrated in vacuo, and the residue was purified by silica gel column chromatography to obtain the title compound (405 mg, 62%).

reactant | 2-(di-n-propylaminocarbonyl)-5-methoxy-1-benzylindole | 1.79 mmol, 654 mg | C(CC)N(C(=O)C=1N(C2=CC=C(C=C2C1)OC)CC1=CC=CC=C1)CCC | C23H28N2O2
reactant | magnesium | 36 mmol, 0.87 g | [Mg] | Mg
solvent | methanol | 18 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(di-n-propylaminocarbonyl)-5-methoxy-1-benzylindoline | 405 mg, 62% | C(CC)N(C(=O)C1N(C2=CC=C(C=C2C1)OC)CC1=CC=CC=C1)CCC | C23H30N2O2
